US04446144
6β-Bromopenicillanic acid pivampicillin salt
To a stirred solution of pivampicillin hydrochloride (2.50 g, 5 mmol) in water (100 ml) was added dropwise 0.1 M aqueous potassium 6β-bromopenicillanate (50 ml). The colorless precipitate thus obtained was filtered off, washed with water (3×10 ml), and dried in vacuo to give the pure title compound as colorless crystals which began to decompose at 120°-130° C. without melting.

reactant | pivampicillin hydrochloride | 5 mmol, 2.50 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C.Cl
reactant | potassium | 0.1 M, 50 ml | [K] | K
solvent | water | 100 ml | O | H2O
product | pivampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@H](C=3C=CC=CC3)N)C(=O)OCOC(=O)C(C)(C)C)C | C22H29N3O6S
